US06995162B2
[2-(1-methylpiperidin-4-yloxy)-pyridin-4-yl]methylamine bis hydrochloride
[2-(1-Methylpiperidin-4-yloxy)-pyridin-4-yl]methylamine was diluted with Et2O (50 ml) and 1M HCl/Et2O (47 ml) was added. The vessel was swirled until precipitate formed.

reactant | [2-(1-Methylpiperidin-4-yloxy)-pyridin-4-yl]methylamine | CN1CCC(CC1)OC1=NC=CC(=C1)CN | C12H19N3O
reactant | HCl Et2O | 1M, 47 ml | Cl.CCOCC
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | [2-(1-methylpiperidin-4-yloxy)-pyridin-4-yl]methylamine bis hydrochloride | Cl.Cl.CN1CCC(CC1)OC1=NC=CC(=C1)CN | InChI=1S/C12H19N3O.2ClH/c1-15-6-3-11(4-7-15)16-12-8-10(9-13)2-5-14-12;;/h2,5,8,11H,3-4,6-7,9,13H2,1H3;2*1H
